US04885297
A mixture of 6-chloro-2-oxo-1-(1-piperazinyl)carbonylmethyl-1,2-dihydrothiazolo[5,4-b]pyridine (0.80 g), chloroacetone (0.24 g), and potassium carbonate (0.35 g) in dry N,N-dimethylformamide (2.4 ml) was heated at 80° C. for 30 min. The mixture was poured into an ice-water, and the precipitates obtained were extracted with chloroform. The chloroform layer was washed with water, dried over magnesium sulfate, and evaporated to give crude crystals (0.85 g). The crude crystals were recrystallized from a mixture of chloroform and ethyl acetate to give 6-chloro-2-oxo-1-[(4-acetonyl-1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine (0.45 g).

reactant | 6-chloro-2-oxo-1-(1-piperazinyl)carbonylmethyl-1,2-dihydrothiazolo[5,4-b]pyridine | 0.80 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)N2CCNCC2)=O | C12H13ClN4O2S
reactant | chloroacetone | 0.24 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2.4 ml | CN(C=O)C | C3H7NO
product | 6-chloro-2-oxo-1-[(4-acetonyl-1-piperazinyl)carbonylmethyl]-1,2-dihydrothiazolo[5,4-b]pyridine | 0.45 g | ClC=1C=C2C(=NC1)SC(N2CC(=O)N2CCN(CC2)CC(=O)C)=O | C15H17ClN4O3S
